US07425567B2
3-benzyloxy-4-hydroxybenzaldehyde
Under atmosphere of argon, to a suspension of sodium hydride (63%, 57.1 g) in anhydrous N,N-dimethylformamide (540 ml) was added a solution of 3,4-dihydroxybenzaldehyde (103.5 g) in anhydrous N,N-dimethylformamide (500 ml) dropwise slowly under cooling with ice. The reaction mixture was stirred for 30 minutes at room temperature, and to the mixture was added benzyl chloride (104 ml) under cooling with ice and it was stirred for 15 hours at room temperature. To the mixture was added water under cooling with ice, and was concentrated under reduced pressure. The residue was diluted by water and it was washed by methylene chloride. The methylene chloride layer was extracted by a 1N aqueous solution of sodium hydroxide. Combined aqueous layers were acidified by 2M hydrochloric acid and it was extracted by ethyl acetate. The organic layer was washed by a saturated aqueous solution of sodium chloride and dried over anhydrous sodium sulfate and concentrated. The residue was recrystallized from chloroform to give the title compound (99.4 g) having the following physical data.

reactant | sodium hydride | 57.1 g | [H-].[Na+]
reactant | 3,4-dihydroxybenzaldehyde | 103.5 g | OC=1C=C(C=O)C=CC1O | C7H6O3
reactant | benzyl chloride | 104 ml | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 540 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 500 ml | CN(C=O)C | C3H7NO
product | 3-benzyloxy-4-hydroxybenzaldehyde | 99.4 g | C(C1=CC=CC=C1)OC=1C=C(C=O)C=CC1O | C14H12O3
